* This is the potentiometer
*      _____
*  1--|_____|--2
*        |
*        3
*
.SUBCKT pot 1 2 3
.param w=limit(wiper,1m,.999)
R0 1 3 {R*(1-w)}
R1 3 2 {R*(w)}
.ENDS